US07074794B2
Piperazine (40 g) was melted by heating at 140° C. and 2,3-dichloro-5-trifluoromethylpyridine (10 g) was added thereto. The mixture was stirred at 120° C. for 2 hr. Water was added to the reaction mixture and the mixture was extracted with chloroform. The extract was washed with brine, dried and concentrated under reduced pressure to give 1-(3-chloro-5-trifluoromethyl-2-pyridyl)piperazine (12.8 g) as a brown solid.

reactant | Piperazine | 40 g | N1CCNCC1 | C4H10N2
reactant | 2,3-dichloro-5-trifluoromethylpyridine | 10 g | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
solvent | Water | O | H2O
product | 1-(3-chloro-5-trifluoromethyl-2-pyridyl)piperazine | 12.8 g | ClC=1C(=NC=C(C1)C(F)(F)F)N1CCNCC1 | C10H11ClF3N3
